US04084049
A mixture of 2,2,2-trichloroethyl 2-bromomethyl-2-methyl-6-(2-phenylacetamido)penam-3-carboxylate (1.08 g), sodium azide (0.26 g), acetone (20 ml) and water (4 ml) was stirred for 4 hours at room temperature. After removing acetone under reduced pressure, the residue was extracted with ethyl acetate. The ethyl acetate layer was washed with water; with a saturated sodium bicarbonate queous solution and further with water and then dried over magnesium sulfate. The solvent was distilled off under reduced pressure and a small amount of ether was added to the residue. Precipitated crystals were filtered off and the solvent was distilled off from the filtrate. The crystalline residue was purified by column chromatography on silica gel using chloroform as developing solvent to give 2,2,2-trichloroethyl 2-azidomethyl-2-methyl-6-(2-phenylacetamido)penam-3-carboxylate (150 mg). This substance was crystallized by adding a small amount of a mixture of ether and petroleum ether and the crystals were recrystallized from ether to give pure compound, mp 105° to 106° C.

reactant | 2,2,2-trichloroethyl 2-bromomethyl-2-methyl-6-(2-phenylacetamido)penam-3-carboxylate | 1.08 g | BrCC1(S[C@H]2N(C1C(=O)OCC(Cl)(Cl)Cl)C(C2NC(CC2=CC=CC=C2)=O)=O)C | C18H18BrCl3N2O4S
reactant | sodium azide | 0.26 g | [N-]=[N+]=[N-].[Na+]
reactant | acetone | 20 ml | CC(=O)C | C3H6O
solvent | water | 4 ml | O | H2O
product | 2,2,2-trichloroethyl 2-azidomethyl-2-methyl-6-(2-phenylacetamido)penam-3-carboxylate | 150 mg | N(=[N+]=[N-])CC1(S[C@H]2N(C1C(=O)OCC(Cl)(Cl)Cl)C(C2NC(CC2=CC=CC=C2)=O)=O)C | C18H18Cl3N5O4S
